US07906528B2
A mixture of (2-[1-[5-(2,6-diethyl-phenyl)-1-(4-isopropyl-phenyl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-meth-(E)-ylidene]-pentanoic acid ethyl ester (120 mg, 0.23 mmol), 10% Pd/C (20 mg), and EtOH (4 mL) is stirred under hydrogen (1 atm) for 18 h at room temperature. The mixture is filtered over celite and concentrated under reduced pressure to afford 2-[5-(2,6-diethyl-phenyl)-1-(4-isopropyl-phenyl)-1H-pyrrolo[2,3-c]pyridin-3-ylmethyl]-pentanoic acid ethyl ester as colorless oil.

reactant | 2-[1-[5-(2,6-diethyl-phenyl)-1-(4-isopropyl-phenyl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-meth-(E)-ylidene]-pentanoic acid ethyl ester | 0.23 mmol, 120 mg | C(C)OC(/C(/CCC)=C/C1=CN(C2=CN=C(C=C21)C2=C(C=CC=C2CC)CC)C2=CC=C(C=C2)C(C)C)=O | C34H40N2O2
catalyst | Pd/C | 20 mg | [Pd] | Pd
solvent | EtOH | 4 mL | CCO | C2H6O
product | 2-[5-(2,6-diethyl-phenyl)-1-(4-isopropyl-phenyl)-1H-pyrrolo[2,3-c]pyridin-3-ylmethyl]-pentanoic acid ethyl ester | C(C)OC(C(CCC)CC1=CN(C2=CN=C(C=C21)C2=C(C=CC=C2CC)CC)C2=CC=C(C=C2)C(C)C)=O | C34H42N2O2
